US06762321B2
One gram (1.0 g) of N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(4-methylphenyl) acetamide (3.2 mmol), 1.68 g (9.64 mmol) of t-butoxybis(dimethylamino)methane and 15 ml of N,N-dimethylformamide were mixed and stirred at 90° C. for 3 hours and then at 110° C. for 3 hours. Water was added to the reaction mixture, which was followed by extracted with ethyl acetate, washed with saturated brine twice, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to give 1.20 g of crude N-[2-(3,4-dimethoxyphenyl)ethyl]-3-dimethylamino-2-(4-methylphenyl)acrylamide.

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(4-methylphenyl) acetamide | 3.2 mmol, One gram | COC=1C=C(C=CC1OC)CCNC(CC1=CC=C(C=C1)C)=O | C19H23NO3
reactant | t-butoxybis(dimethylamino)methane | 9.64 mmol, 1.68 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-dimethylamino-2-(4-methylphenyl)acrylamide | 1.20 g | COC=1C=C(C=CC1OC)CCNC(C(=CN(C)C)C1=CC=C(C=C1)C)=O | C22H28N2O3
